US04921526
Sodium metal (2.31 g, 101.0 mmol) is dissolved in 50 ml of ethanol, and diethyl methylmalonate (17.6 g, 101.0 mmol) is added, after which the mixture is stirred for approx. 30 min. under reflux. 1-Acetyl-1-cyclohexene (12.50 g, 101.0 mmol) is added and the mixture is stirred under reflux overnight. Potassium hydroxide (12.47 g, 222.2 mmol) dissolved in 40 ml of water is added and the mixture is heated under reflux for 4 hr. The ethanol is removed by rotary evaporation, and the residue is dissolved in water and washed with ether. The aqueous layer is acidified with conc. HCl and extracted with ether. The combined extracts are dried and the solvent is removed to give 4a,5,6,7,8,8a -hexahydro-4-methylnaphthalene-1,3(2H,4H)-dione.

reactant | Sodium | 101.0 mmol, 2.31 g | [Na] | Na
reactant | diethyl methylmalonate | 101.0 mmol, 17.6 g | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | 1-Acetyl-1-cyclohexene | 101.0 mmol, 12.50 g | C(C)(=O)C1=CCCCC1 | C8H12O
reactant | Potassium hydroxide | 222.2 mmol, 12.47 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 4a,5,6,7,8,8a -hexahydro-4-methylnaphthalene-1,3(2H,4H)-dione | CC1C(CC(C2CCCCC12)=O)=O | C11H16O2
